US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-ethylbutyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 2-ethylbutanol according to the procedure of Example 1 as an off-white gum (HCl salt); 1H NMR (CDCl3) δ 0.80-0.95 (m, 12H), 1.25-1.45 (m, 10H), 1.50-1.65 (m, 3H), 2.75-2.85 (m, 1H), 3.10-3.40 (m, 1H), 3.47-3.49 (m, 2H), 4.25 (d, 5H), 5.50 (d, 1H), 6.70-6.80 (m, 1H), 6.80-6.90 (m, 2H), 7.20-7.45 (m, 3H), 7.46 (s, 1H), 8.74 (bs, 1 H), 10.06 (bs, 1H); IR (KBr): 2964 cm-1 (--OH), 1766 cm-1 (C=O); MS (ES) m/z 590.4 (MH+); [α]D25 -21° (c, 1.0, CHCl3). Anal. Calcd. for C32H44ClNO7 ·HCl: C, 61.34; H, 7.08; N, 2.24; Cl, 11.32. Found: C, 61.09; H, 7.46; N, 2.12; Cl, 10.77.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2-ethylbutanol | C(C)C(CO)CC | C6H14O
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-ethylbutyl) ester | C(C)C(COC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCC(CC)CC)CC | C32H44ClNO7
